US07250479B2
Preparation of Tert-butyl dithiobenzoate (16) (C, p=1, R=C(CH3)3; Z=Ph)
A mixture of S-t-butyl thiobenzoate (1.94 g, 0.01 mol) and Lawesson's reagent (2.43 g, 0.006 mol) in anhydrous toluene (10 mL) was refluxed for 25 hours. After cooling to room temperature, the reaction mixture was concentrated and the residue subjected to column chromatography (Kieselgel-60, 70-230 mesh, petroleum spirit/diethyl ether 19:1) The title compound was obtained as an oil, 1.37 g (65.5%). 1H-nmr (CDCl3) d (ppm): 1.69 (s, 9H, 3×CH3), 7.36 (m, 2H, meta-ArH), 7.50 (m, 1H, para-ArH) and 7.88 (d, 2H, ortho-ArH). 13C-nmr (CDCl3) d (ppm): 28.2, 52.2, 126.6, 128.1, 131.7 and 147.0. The signal due to C═S (d>220.0 ppm) was beyond the frequency range of the spectrum.

reactant | S-t-butyl thiobenzoate | 0.01 mol, 1.94 g | C(C1=CC=CC=C1)(=O)SC(C)(C)C | C11H14OS
reactant | Lawesson's reagent | 0.006 mol, 2.43 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Tert-butyl dithiobenzoate | C(C1=CC=CC=C1)(=S)SC(C)(C)C | C11H14S2
